US04525540
A mixture of 4,5-dibromomethyl-1,3-dioxolan-2-one (2.07 g, 7.6 mmole) and 1,8-diazabicyclo[5.4.0]undec-5-ene (2.26 ml, 15.2 mmole) in CH2Cl2 (20 ml) was stirred at 20° C. for 5 h, then anhydrous ethanol (5.0 ml, 85 mmole) was added, and the resulting mixture was stirred at 20° C. for 10 h. Flash chromatography (ethyl ether-hexane eluent) of the reaction mixture yielded 3,3-diethoxy-2-butanone as a colorless liquid (110 mg, 10%): IR (AgCl) 2965, 1722, 1350, 1253, 1133, 1050, 954 cm-1 ; 'H NMR (CDCl3) 1.23 (m, 9 H), 2.28 (s, 3 H), 3.50(q, J=7.5 Hz, 4 H).

reactant | 4,5-dibromomethyl-1,3-dioxolan-2-one | 7.6 mmole, 2.07 g | BrCC1OC(OC1CBr)=O | C5H6Br2O3
reactant | 1,8-diazabicyclo[5.4.0]undec-5-ene | 15.2 mmole, 2.26 ml | N12CCCC=CC2NCCC1 | C9H16N2
reactant | ethanol | 85 mmole, 5.0 ml | C(C)O | C2H6O
reactant | ethyl ether hexane | C(C)OCC.CCCCCC
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 3,3-diethoxy-2-butanone | 110 mg, 10% | C(C)OC(C(C)=O)(C)OCC | C8H16O3
